US03978121
B. 5-(3-ethylaminopropyl)-5H-dibenzo[a,d]cycloheptene
5-[3-(N-Benzyl-N-ethylamino)-propyl]-5H-dibenzo[a,d]cycloheptene is dissolved in absolute alcohol and hydrogenated over palladium on alumina catalyst at 40°-60°C. The catalyst is separated and the product isolated by evaporating the solvent.

reactant | 5-[3-(N-Benzyl-N-ethylamino)-propyl]-5H-dibenzo[a,d]cycloheptene | C(C1=CC=CC=C1)N(CC)CCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C27H29N
catalyst | palladium on alumina | [Pd] | Pd
product | 5-(3-ethylaminopropyl)-5H-dibenzo[a,d]cycloheptene | C(C)NCCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C20H23N
